US07635715B2
Step D: Preparation of ethyl 2-(3-chloro-2-iodophenyl)acetate
A mixture of 2-(3-chloro-2-iodophenyl)acetic acid (3.2 g, 11 mmol) in 50 mL EtOH was treated with 2 mL con. H2SO4, and refluxed for 2 hours. The mixture was cooled to room temperature, diluted with 200 mL EtOAc, washed with water (3×50 mL), saturated NaCl (20 mL), dried over anhydrous sodium sulfate and concentrated. The concentrate was purified by column chromatography (10-20% EtOAc/hexane) to give 3.62 g pale yellow oil. MS m/e: (M+H)+ 325.

reactant | 2-(3-chloro-2-iodophenyl)acetic acid | 11 mmol, 3.2 g | ClC=1C(=C(C=CC1)CC(=O)O)I | C8H6ClIO2
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
reactant | EtOH | 50 mL | CCO | C2H6O
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | ethyl 2-(3-chloro-2-iodophenyl)acetate | 3.62 g | ClC=1C(=C(C=CC1)CC(=O)OCC)I | C10H10ClIO2
